US06593333B1
A solution of 3,4-dimethoxybenzoyl chloride (11.5 g) in methylene chloride (100 ml) was added dropwise to a stirred mixture of 2-methyl-5-nitroaniline (8.74 g), pyridine (18.6 ml) and methylene chloride (200 ml) and the mixture was stirred at ambient temperature for 18 hours. The mixture was washed with 2M hydrochloric acid and with water, dried over magnesium sulphate, filtered and evaporated to dryness. The resultant solid was dried under vacuum at 60° C. to yield N-(2-methyl-5-nitrophenyl)-3,4-dimethoxybenzamide (15.9 g); m.p.>300° C.; NMR: (CDCl3) 2.43 (s, 3H), 3.94 (m, 6H), 6.93 (m, 1H), 7.38 (m, 2H), 7.51 (m, 1H), 7.75 (broad s, 1H), 7.94 (d, 1H), 8.89 (broad m, 1H).

reactant | 3,4-dimethoxybenzoyl chloride | 11.5 g | COC=1C=C(C(=O)Cl)C=CC1OC | C9H9ClO3
reactant | 2-methyl-5-nitroaniline | 8.74 g | CC1=C(N)C=C(C=C1)[N+](=O)[O-] | C7H8N2O2
reactant | pyridine | 18.6 ml | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | N-(2-methyl-5-nitrophenyl)-3,4-dimethoxybenzamide | 15.9 g | CC1=C(C=C(C=C1)[N+](=O)[O-])NC(C1=CC(=C(C=C1)OC)OC)=O | C16H16N2O5
